US06211234B1
A mixture of 2,4-dihydroxybenzaldehyde (17.5 g), potassium carbonate (42 g) and benzyl bromide (35 mL) in dimethyl formamide (100 mL) is stirred at room temperature for 18 hours. The reaction mixture is poured into vigorously stirred ice-water (300 mL) and stirring is continued for 30 minutes. The resulting brown solid is filtered and dried to give 2,4-dibenzyloxybenzaldehyde (28.5 g), m.p. 80-81° C. [Elemental analysis:- C,79.5; H,6.10%. Calculated:- C,79.2; H,5.70%].

reactant | 2,4-dihydroxybenzaldehyde | 17.5 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | potassium carbonate | 42 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 35 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethyl formamide | 100 mL | CN(C=O)C | C3H7NO
product | 2,4-dibenzyloxybenzaldehyde | 28.5 g | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1)OCC1=CC=CC=C1 | C21H18O3
